US07176242B2
Methyl 3-[(dipropylamino)carbonyl]-5-(1H-imidazol-2-yl)benzoate
To a −70° C. stirred solution of 1-tert-butyldimethylsilylimidazole (602 mg, 3.3 mmol) in tetrahydrofuran (10 mL) is added n-butyllithium (1.6 M in hexanes, 2.3 mL, 3.63 mmol). After 30 min, zinc chloride (1 M in diethyl ether, 9.9 mL, 9.9 mmol) is added and the reaction mixture is warmed to 0° C. for 1 h. To this mixture is then added methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate prepared by the method in EXAMPLE SP-281, step2 (1.17 g, 3 mmol) followed by palladium(0) tetrakis(triphenylphosphine) (173 mg, 0.15 mmol). The reaction mixture is heated at reflux for 15 h. The reaction mixture is diluted with ethyl acetate (50 mL), washed with water, and brine, dried (sodium sulfate), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica gel, 1–5% methanol/methylene chloride) provides the title compound in pure form. 1H NMR (300 MHz, CDCl3) δ 8.64 (s, 1H), 8.14 (s, 1H), 7.97 (s, 1H), 7.19 (s, 2H), 3.96 (s, 3H), 3.51 (m, 2H), 3.32 (m, 2H), 1.73 (m, 2H), 1.57 (m, 2H), 1.01 (m, 3H), 0.73 (m, 3H).

reactant | 1-tert-butyldimethylsilylimidazole | 3.3 mmol, 602 mg | [Si](C)(C)(C(C)(C)C)N1C=NC=C1 | C9H18N2Si
reactant | n-butyllithium | 3.63 mmol, 1.6 M, 2.3 mL | C(CCC)[Li]
reactant | methyl 3-[(dipropylamino)carbonyl]-5-iodobenzoate | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)I)CCC | C15H20INO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 9.9 mmol, 1 M, 9.9 mL | [Cl-].[Zn+2].[Cl-]
catalyst | palladium(0) tetrakis(triphenylphosphine) | 0.15 mmol, 173 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | Methyl 3-[(dipropylamino)carbonyl]-5-(1H-imidazol-2-yl)benzoate | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1NC=CN1)CCC | C18H23N3O3
